US05955607
A solution of 0.3 g (0.78 mmol) of 5-[ethylsulfonyl-(2,2,6-trimethylchroman-4-yl)amino]pentanoic acid, 0.11 g (0.78 mmol) of HOBT and 0.18 g (0.86 mmol) of DCC in 4 ml of DMF is stirred at 0° C. for 1 h. 0.09 g (0.78 mmol) of diethylaminoethylamine is then added and the mixture is stirred overnight at RT. It is treated with 50 ml of water and 50 ml of EA, and the organic phase is washed twice with 25 ml each of saturated sodium bicarbonate solution and additionally twice with water. After drying over magnesium sulfate and concentrating in vacuo, 0.3 g of 5-[ethylsulfonyl-(2,2,6-trimethylchroman-4-yl)amino]pentanoic acid (2-diethylaminoethyl)amide is obtained.

reactant | 5-[ethylsulfonyl-(2,2,6-trimethylchroman-4-yl)amino]pentanoic acid | 0.78 mmol, 0.3 g | C(C)S(=O)(=O)N(CCCCC(=O)O)C1CC(OC2=CC=C(C=C12)C)(C)C | C19H29NO5S
reactant | HOBT | 0.78 mmol, 0.11 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 0.86 mmol, 0.18 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | diethylaminoethylamine | 0.78 mmol, 0.09 g | C(C)N(CC)CCN | C6H16N2
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | EA | 50 ml | CC(OCC)=O | C4H8O2
solvent | water | 50 ml | O | H2O
product | 5-[ethylsulfonyl-(2,2,6-trimethylchroman-4-yl)amino]pentanoic acid (2-diethylaminoethyl)amide | 0.3 g | C(C)N(CCNC(CCCCN(C1CC(OC2=CC=C(C=C12)C)(C)C)S(=O)(=O)CC)=O)CC | C25H43N3O4S
